US04178293
To 10 ml tetrahydrofuran (THF) is added 3,4,5,6-tetrafluoro-1,2-benzenedicarboxylic acid (2 g, 8.4 mmol). After cooling to 0°, 21.0 ml (20.9 mmol) of 1 M borane in THF is slowly added. The reaction mixture is allowed to rise to RT and stirred at RT for 18 hours and then is cooled and quenched with 10% HCl. The reaction mixture is added to ether, and the organic phase is washed with water, sat. sodium bicarbonate and brine, dried over sodium sulfate and evaporated under vacuum to yield 3,4,5,6-tetrafluoro-1,2-bis(hydroxymethyl)benzene.

reactant | 3,4,5,6-tetrafluoro-1,2-benzenedicarboxylic acid | 8.4 mmol, 2 g | FC1=C(C(=C(C(=C1F)F)F)C(=O)O)C(=O)O | C8H2F4O4
reactant | borane | 20.9 mmol, 1 M, 21.0 ml | B | BH3
solvent | THF | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3,4,5,6-tetrafluoro-1,2-bis(hydroxymethyl)benzene | FC=1C(=C(C(=C(C1F)F)F)CO)CO | C8H6F4O2
